US08242153B2
To a stirred solution of (RS)-2-amino-4,4-dimethyl-5-phenyl-pentan-1-ol (0.97 g) at r.t. in THF (15 ml) under an argon atmosphere were added K2CO3 (0.78 g) and a solution of BrCN (0.59 g) in THF (10 ml). The mixture was stirred for 17 h. The suspension was diluted with EtOAc and washed with H2O. The aqueous phase was back-extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4), filtered and concentrated. The crude product was purified by chromatography on Isolute® Flash-NH2 silica gel from Separtis (gradient: cyclohexane→CH2Cl2→CH2Cl2/MeOH 9:1) to give (RS)-4-(2,2-dimethyl-3-phenyl-propyl)-4,5-dihydro-oxazol-2-ylamine (0.59 g) as an off-white sticky solid. MS (ISP): 233.2 ([M+H]+))

reactant | (RS)-2-amino-4,4-dimethyl-5-phenyl-pentan-1-ol | 0.97 g | NC(CO)CC(CC1=CC=CC=C1)(C)C | C13H21NO
reactant | K2CO3 | 0.78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BrCN | 0.59 g | BrC#N | CBrN
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (RS)-4-(2,2-dimethyl-3-phenyl-propyl)-4,5-dihydro-oxazol-2-ylamine | 0.59 g | CC(CC1N=C(OC1)N)(CC1=CC=CC=C1)C | C14H20N2O
